US07781452B2
5-Iodo-6-methoxy-3-nitro-2-pyridineamine
A suspension of 6-methoxy-3-nitro-2-pyridineamine (14.6 g, 86.4 mmol) and N-iodosuccinimide (29.2 g, 130 mmol) in acetic acid (280 ml) was stirred at room temperature for 21 hours and 30 minutes. The reaction mixture was concentrated and the residue was dissolved in ethyl acetate and 0.5N sodium hydroxide. The ethyl acetate layer was washed with a saturated sodium bicarbonate solution and a saturated brine solution, dried over anhydrous sodium sulfate, and concentrated. The residue was suspended in hexane, and a resulted precipitate was filtered and washed with hexane, thereby yielding the title compound (25.2 g, 85.5 mmol, 98.9%) as a yellow solid.

reactant | 6-methoxy-3-nitro-2-pyridineamine | 86.4 mmol, 14.6 g | COC1=CC=C(C(=N1)N)[N+](=O)[O-] | C6H7N3O3
reactant | N-iodosuccinimide | 130 mmol, 29.2 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetic acid | 280 ml | C(C)(=O)O | C2H4O2
product | 5-Iodo-6-methoxy-3-nitro-2-pyridineamine | 85.5 mmol, 25.2 g, 98.9% | IC=1C=C(C(=NC1OC)N)[N+](=O)[O-] | C6H6IN3O3
